US07915424B2
5-(4-Fluorophenylethynyl)-pyridine-3-carbaldehyde O-methyloxime hydrochloride
Prepare essentially as described in EXAMPLE 6 using 5-(4-fluorophenylethynyl)-pyridine-3-carbaldehyde, (prepared essentially as described in EXAMPLE 99), (150 mg, 0.64 mmol), methoxylamine hydrochloride (430 mg, 5.15 mmol) and potassium carbonate to give the title compound (120 mg, 64%).

reactant | 5-(4-fluorophenylethynyl)-pyridine-3-carbaldehyde | FC1=CC=C(C=C1)C#CC=1C=C(C=NC1)C=O | C14H8FNO
reactant | methoxylamine hydrochloride | 0.64 mmol, 150 mg | Cl.O(C)N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 5-(4-Fluorophenylethynyl)-pyridine-3-carbaldehyde O-methyloxime hydrochloride | 120 mg, 64% | Cl.CON=CC=1C=NC=C(C1)C#CC1=CC=C(C=C1)F | InChI=1S/C15H11FN2O.ClH/c1-19-18-11-14-8-13(9-17-10-14)3-2-12-4-6-15(16)7-5-12;/h4-11H,1H3;1H
